US06252084B1
1-Hexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide (230 mg, 0.8 mmol) was dissolved in 10 mL of DMF and 26 mg (0.8 mmol) of 60% NaH/mineral oil added. The mixture was stirred for 1 hour, 0.115 mL (0.8 mmol) of ethyl 4-bromobutyrate added and stirring continued for 96 hours. The mixture was diluted with water, extracted with ethyl acetate, the ethyl acetate washed with water and dried (Na2SO4). The solution was concentrated at reduced pressure and the residue chromatographed on silica gel (eluted with 3% MeOH/methylene chloride) to give 170 mg (53% yield of [4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester, mp, 69-71° C.

reactant | 1-Hexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide | 0.8 mmol, 230 mg | C(CCCCC)N1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C | C17H24N2O2
reactant | NaH | 0.8 mmol, 26 mg | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 0.8 mmol, 0.115 mL | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[[3-(2-amino-2-oxoethyl)-1-hexyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | 53% yield | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CCCCCC)C)CC(=O)N)=O | C23H34N2O4
